US06982268B2
To a solution of 2-amino-malononitrile 4-toluenesufonate (5.0 g, 19.3 mmol) in methanol (60 mL) at room temperature under N2 is added NaOMe (25% w/w in MeOH, 5.2 mL, 22.7 mmol). After 2 hours, acetic acid (0.204 g, 3.4 mmol) is added. The mixture is cooled to 0° C. and to the mixture is added benzaldehyde (3 g, 19.9 mmol). The mixture is stirred at this temperature for an additional 2 hours and then gradually warmed to room temperature overnight. To the mixture is added concentrated HCl (9.2 g, 80 mmol) and the mixture is stirred at room temperature over the weekend. Solvent is removed in vacuo. To the crude mixture is added saturated NH4Cl (50 mL) and DCM (100 mL). The organic layer is separated and the aqueous layer is extracted (2×50 mL) with DCM. The combined organic layers are dried and solvent removed. Column chromatography separation (silica gel, DCM) gives 1.0 g of 3-methoxy-5-phenyl-pyrazine-2-carboxylic acid methyl ester as a yellow solid.

reactant | 2-amino-malononitrile 4-toluenesufonate | 19.3 mmol, 5.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.NC(C#N)C#N
reactant | NaOMe | 22.7 mmol, 5.2 mL | C[O-].[Na+]
reactant | acetic acid | 3.4 mmol, 0.204 g | C(C)(=O)O | C2H4O2
reactant | benzaldehyde | 19.9 mmol, 3 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | HCl | 80 mmol, 9.2 g | Cl | ClH
reactant | methanol | 60 mL | CO | CH4O
product | 3-methoxy-5-phenyl-pyrazine-2-carboxylic acid methyl ester | 1.0 g | COC(=O)C1=NC=C(N=C1OC)C1=CC=CC=C1 | C13H12N2O3
